US05133965
Preparation and Sterilization of Kanamycin SDMCs in Foam Wound Dressing
To a solution of 125 ml of dichloromethane was added 1 gram of kanamycin sulfate in 10 ml of aqueous solution. To the resulting solution was added 20 ml of soy lecithin (Alcolec S). The solution was mixed by shaking. Four ml of the solution was applied to each side of a 1"×1" foam wound dressing, which was then allowed to dry. These materials were placed in foil heat sealed bags and subjected to sterilization by use of cobalt irradiation (3.2 megarads). The materials were assayed for antibiotic activity as described in Example 12. The eluent contained fully active entrapped antibiotic after irradiation by using standard antimicrobial assay techniques.

reactant | kanamycin sulfate | 1 gram | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N.OS(=O)(=O)O
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | Kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
